### PR TITLE
Spec extensions dspec

### PR DESCRIPTION
**Pull request by jeprinz**
This adds a way to register new types of spec theorems with the `#register_spec_theorem` command, which can be used with the step tactic.
It also adds a new type of spec theorem `dspec` which allows proofs about possibly diverging computations.
It also adds a new tactic `dspec_induction`, which handles fixpoint induction for dspec theorems.

### CODE REVIEW

File: tests/lean/Tutorial/Solutions.lean [hunk 1]
```diff
@@ -452,4 +452,34 @@ theorem add_with_carry_spec
...
+  intros loop' ih x
+  simp only
+  simp
+  by_cases ((↑x : Nat) < 100)
+  ·
+    simp [*]
+    unfold dummy_hash
+    simp
+    -- note that here, i am refraining from using the result of dummy_hash,
+    -- since its supposed to represent a hash function where we can't predict the result,
```
Comment (sonmarcho) [inline tests/lean/Tutorial/Solutions.lean]:
```suggestion
    -- note that here, I am refraining from using the result of dummy_hash,
    -- since it's supposed to represent a hash function where we can't predict the result,
```

File: tests/lean/Tutorial/Solutions.lean [hunk 2]
```diff
@@ -452,4 +452,34 @@ theorem add_with_carry_spec
...
+  generalize 0#u32 = x
+  revert x
+  dspec_induction pseudo_random_loop
+  intros loop' ih x
+  simp only
+  simp
+  by_cases ((↑x : Nat) < 100)
+  ·
+    simp [*]
+    unfold dummy_hash
```
Comment (sonmarcho) [inline tests/lean/Tutorial/Solutions.lean]: I think we should just prove a step theorem about `dummy_hash` that says nothing about the output.
Then the proof starting after `dspec_induction ....; intros ...` should only be `step*`.

File: tests/lean/Tutorial/Exercises.lean [hunk 3]
```diff
@@ -850,4 +850,47 @@ def add
...
+partial_fixpoint
+
+/-- [tutorial::pseudo_random]:
+    Source: 'src/lib.rs', lines 255:0-262:1
+    Visibility: public -/
+@[reducible] def pseudo_random : Result Std.U32 := do
+               pseudo_random_loop 0#u32
+
+
+/- exersize about dspec.
```
Comment (sonmarcho) [inline tests/lean/Tutorial/Exercises.lean]:
```suggestion
/- Exercise about dspec.
```

File: tests/lean/Tutorial/Exercises.lean [hunk 4]
```diff
@@ -850,4 +850,47 @@ def add
...
+For the usual spec `r ⦃post⦄`, one needs to prove that `r` terminates and
+produces a value that satisfies `post`
+
+However, sometimes a function may be potentially nonterminating.
+dspec (notated `r div⦃post⦄`) is a weaker statement,
```
Comment (sonmarcho) [inline tests/lean/Tutorial/Exercises.lean]:
```suggestion
`dspec` (notation `r div⦃post⦄`) is a weaker statement,
```

File: tests/lean/Tutorial/Exercises.lean [hunk 5]
```diff
@@ -850,4 +850,47 @@ def add
...
+and only means that if r terminates then the result satisfies `post`.
+It works with the `step` tactic and any @step theorems for spec are automatically
+lifted to dspec. You will also need the `dspec_induction` tactic to complete this exercise,
+which is used to prove a fact about a recursive function by induction in it's recursive calls.
```
Comment (sonmarcho) [inline tests/lean/Tutorial/Exercises.lean]:
```suggestion
and only means that if `r` terminates then the result satisfies `post`.
It works with the `step` tactic and any `@step` theorems for `spec` are automatically
lifted to `dspec`. You will also need the `dspec_induction` tactic to complete this exercise,
which is used to prove a fact about a recursive function by induction in its recursive calls.
```

File: tests/lean/Tutorial/Exercises.lean [hunk 6]
```diff
@@ -850,4 +850,47 @@ def add
...
+
+`dummy_hash` is supposed to represent an opaque function where we can't reason about it's output,
+so don't make use of it's definition as a constant for the solution.
```
Comment (sonmarcho) [inline tests/lean/Tutorial/Exercises.lean]:
```suggestion
`dummy_hash` is supposed to represent an opaque function where we can't reason about its output,
so don't make use of its definition as a constant for the solution.
```

File: tests/src/tutorial/src/lib.rs [hunk 7]
```diff
@@ -246,3 +246,17 @@ fn test() {
     assert!(x.len() == 1);
     assert!(x[0] == 0xfffffffe);
 }
+
+pub fn dummy_hash(_ : u32) -> u32 {
+    // pretend that this function is opaque and we can't assume anything about the output
+    return 1000;
+}
```
Comment (sonmarcho) [inline tests/src/tutorial/src/lib.rs]: Extending the tutorial to talk about `dspec` is a good idea!
I think a way of making the `dummy_hash` example work nicely would be to parameterize `pseudo_random` with a trait.

File: backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean [hunk 8]
```diff
@@ -0,0 +1,351 @@
...
+  generalize 0#u32 = x
+  revert x
+  dspec_induction loop
+  intros loop' ih x
+  simp only
+  unfold pseudo_random_loop.body
+  simp
+  by_cases ((↑x : Nat) < 100)
+  ·
+    simp [*]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean]:
```suggestion
  · simp [*]
```

File: backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean [hunk 9]
```diff
@@ -0,0 +1,351 @@
...
+    unfold dummy_hash
+    simp
+    -- note that here, i am refraining from using the result of dummy_hash,
+    -- since its supposed to represent a hash function where we can't predict the result,
+    -- but it actually is just a constant
+    step
+    grind
+  ·
+    simp [*]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean]:
```suggestion
  · simp [*]
```

File: backends/lean/Aeneas/Tactic/Step/DspecInduction.lean [hunk 10]
```diff
@@ -0,0 +1,351 @@
...
+-- these two examples demonstrate how .fixpoint_induct theorems can take various forms.
+def first_arg_const (x y : Nat) : Option Nat :=
+  if x = 0 then Option.some 0
+  else first_arg_const x (y + 1)
+partial_fixpoint
+
+def second_arg_const (x y : Nat) : Option Nat :=
+  if y = 0 then Option.some 0
+  else second_arg_const (x + 1) y
+partial_fixpoint
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/DspecInduction.lean:335]: I'm surprised these aren't used: it would be good to add a test to make sure the tactic works also on such examples.

File: backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean [hunk 11]
```diff
@@ -0,0 +1,351 @@
...
+  apply Lean.Order.admissible_flatOrder
+  simp only [WP.dspec]
+
+macro "prove_admissible" : tactic =>
+  `(tactic| (
+      (repeat' apply curry_admissible)
+      (repeat' (apply Lean.Order.admissible_pi ; intro))
+      (apply WP_func_admissible)
+  )
+  )
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean]: Do we still need this?

File: backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean [hunk 12]
```diff
@@ -0,0 +1,351 @@
...
+import Aeneas.Tactic.Step.Step
+
+-- tactic for unfolding partial_fixpoint definitions with fixpoint_induct
+-- normally you would use the normal unfold tactic, but that requires the proof to be terminating
+-- instead, you need to use the .fixpoint_induct theorem that is automatically created by lean
+-- however, this requires a bunch of boilerplate that can be automated in the case that
+-- the conclusion is a dspec theorem about a function call.
+-- in particular, the statement needs to be proven to be admissible.
+-- see the examples below to see what the tactic does
+-- and the manual examples show what the tactic is doing written out directly
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean]:
```suggestion
/- Tactic for unfolding partial_fixpoint definitions with fixpoint_induct.
   Normally you would use the normal unfold tactic, but that requires the proof to be terminating.
   Instead, you need to use the .fixpoint_induct theorem that is automatically created by lean.
   However, this requires a bunch of boilerplate that can be automated in the case that
   the conclusion is a dspec theorem about a function call.
   In particular, the statement needs to be proven to be admissible.
   
   See the examples below to see what the tactic does
   and the manual examples show what the tactic is doing written out directly. -/
```

File: backends/lean/Aeneas/Tactic/Step/DspecInduction.lean [hunk 13]
```diff
@@ -0,0 +1,351 @@
...
+import Aeneas.Tactic.Solver.ScalarTac
+import Aeneas.Tactic.Step.Init
+import Aeneas.Tactic.Step.GrindState
+import Aeneas.Std
+import Aeneas.Tactic.Simp.SimpLemmas
+import AeneasMeta.Async
+import Aeneas.Tactic.Solver.Grind.Init
+import Aeneas.Tactic.Step.InferPost
+import Aeneas.Tactic.Step.Step
+
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/DspecInduction.lean:11]: I think it would make sense to rename the file so that it matches the name of the tactic (`dspec_induction`). Then I guess you will need to update the trace namespace.

File: backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean [hunk 14]
```diff
@@ -0,0 +1,351 @@
...
+  let func_expr := func_expr.getAppFn
+  let func_expr_name := func_expr.constName!
+
+  -- do some wierd hacky nonsense to get `func.fixpoint_induct`.
+  -- more obvious methods fail, presumably due to buggy lean behavior
+  let namee := func.getId.mkStr "fixpoint_induct"
+  let fi_stx : Syntax ← `(term | $(mkIdent namee))
+  let fixpoint_induct ← Term.elabTerm fi_stx none
+  let fixpoint_induct := fixpoint_induct.getAppFn
+  trace[UnfoldPF] "type of fixpoint_induct is {← inferType fixpoint_induct}"
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean]: Can you add a link to the Zulip conversation?

File: backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean [hunk 15]
```diff
@@ -0,0 +1,351 @@
...
+  let .some func_application := goalTy.find? (fun e => e.getAppFn.isConstOf func_expr_name)
+  | throwError "{func} not found in goal"
+  trace[UnfoldPF] "func app in goal is: {func_application}"
+  let args_in_goal := func_application.getAppArgs
+  let const_args := (args_in_goal.zip constant_params).filterMap
+    fun (x, b) => if b then some x else none
+  let nonconst_args := (args_in_goal.zip constant_params).filterMap
+    fun (x, b) => if b then none else some x
+  trace[UnfoldPF] "const_args: {const_args}"
+  -- }
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean]:
```suggestion
```

File: backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean [hunk 16]
```diff
@@ -0,0 +1,351 @@
...
+  let namee := func.getId.mkStr "fixpoint_induct"
+  let fi_stx : Syntax ← `(term | $(mkIdent namee))
+  let fixpoint_induct ← Term.elabTerm fi_stx none
+  let fixpoint_induct := fixpoint_induct.getAppFn
+  trace[UnfoldPF] "type of fixpoint_induct is {← inferType fixpoint_induct}"
+
+  -- sadly, there are many possible forms that fixpoint_induct can take.
+  -- we need to reverse engineer which form it is by looking at its type.
+  -- see the examples at the end of this file, it depends on which parameters to the
+  -- original function are unchanged in recursive calls. {
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean]:
```suggestion
  -- original function are unchanged in recursive calls.
```

File: backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean [hunk 17]
```diff
@@ -0,0 +1,351 @@
...
+    fun (x, b) => if b then none else some x
+  trace[UnfoldPF] "const_args: {const_args}"
+  -- }
+
+  -- make a type family that abstracts over instances of func in the goal type
+  -- first, we need to find out what type the motive expects, by inspecting the theorem
+  -- this should be something that inputs all of the nonconst_args
+  let applied_fixpoint_induct_type ← inferType (mkAppN fixpoint_induct const_args)
+  let applied_func_type := (getInputTypes (getInputTypes applied_fixpoint_induct_type).getLast!)[0]!
+  -- let applied_func_type ← inferType func_expr
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean]:
```suggestion
```

File: backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean [hunk 18]
```diff
@@ -0,0 +1,351 @@
...
+
+  let fi_app := mkAppN fixpoint_induct (const_args ++ #[abs_goal_ty])
+
+  trace[UnfoldPF] "going to apply {fi_app}"
+  trace[UnfoldPF] "of type : {← inferType fi_app}"
+
+  let [g_admissible, g_main] ← goal.apply fi_app | throwError "this shouldn't happen 1"
+
+  -- prove the admissibility condition. this chunk of code is equivalent to the
+  -- `prove_admissible` tactic above, but apparently calling that directly might cause problems
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/UnfoldPF.lean]:
```suggestion
  -- Prove the admissibility condition
```

File: backends/lean/Aeneas/Std/WP.lean [hunk 19]
```diff
@@ -206,6 +260,10 @@ This way we can expressions like: `x + y ⦃ z => ... ⦄` without having to put
 scoped syntax:54 term:55 " ⦃ " term+ " => " term " ⦄" : term
 scoped syntax:54 term:55 " ⦃ " term " ⦄" : term
 
+-- for dspec
+scoped syntax:54 term:55 " div⦃ " term+ " => " term " ⦄" : term
+scoped syntax:54 term:55 " div⦃ " term " ⦄" : term
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/WP.lean]: Could we rather have: `⦃ ... ⦄div`? I'm afraid that otherwise the `div` keyword might be mistaken for a function parameter.

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 20]
```diff
@@ -1856,8 +1893,8 @@ z : U32
 _✝¹ : y > 0
 _✝ : ↑z = ↑x + y
 ⊢ ↑z > ↑x
-  -/
-  #guard_msgs in
+-/
+#guard_msgs in
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: Why this diff?

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 21]
```diff
@@ -1909,8 +1946,8 @@ h1 : ∀ (i : ℕ) (x : i < s.length), s'[i] = 0#u32
       let _ ← zero s'
       ok ()) ⦃
     x✝ => True ⦄
-  -/
-  #guard_msgs in
+-/
+#guard_msgs in
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: Why this diff?

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 22]
```diff
@@ -1921,6 +1958,7 @@ h1 : ∀ (i : ℕ) (x : i < s.length), s'[i] = 0#u32
       let _ ← zero s'
       pure ()) ⦃ _ => True ⦄ := by
     step with zero_spec as ⟨ s', h0, h1 ⟩
+    --
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 23]
```diff
@@ -608,10 +636,10 @@ def introOutputs (args : Args) (fExpr : Expr) (stepState : StepState) :
...
             { declsToUnfold := #[``Std.WP.curry, ``Std.WP.uncurry']
               addSimpThms :=
-                #[``Std.WP.qimp_spec_iff, ``Std.WP.qimp_iff,
-                  ``Std.WP.imp_and_iff, ``Std.WP.imp_exists_iff,
-                  ``Prod.forall, ``Prod.exists, ``Std.uncurry_apply_pair,
-                  ``forall_unit, ``true_imp_iff] }
+                info.qimp_elim_tactics } -- ++
+                -- #[ ``Std.WP.qimp_iff, ``Std.WP.imp_and_iff, ``Prod.forall, ``Prod.exists, ``Std.uncurry_apply_pair,
+                --    ``Std.WP.imp_and_iff,  -- ``Std.WP.imp_exists_iff,
+                --    ``forall_unit, ``true_imp_iff] }
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: It would be good to cleanup the comments

File: backends/lean/Aeneas/Std/Spec.lean [hunk 24]
```diff
@@ -0,0 +1,70 @@
...
+  to_mvcgen: Option Name
+
+  liftings : Array LiftingInfo
+  deriving Inhabited
+
+structure SpecInfoExtensionState where
+  specInfos : Std.HashMap Name SpecInfo
+  deriving Inhabited
+
+-- /- Initialize the state extension for adding spec theorems -/
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Spec.lean]:
```suggestion
/- Initialize the state extension for adding spec theorems -/
```

File: backends/lean/Aeneas/Std/WP.lean [hunk 25]
```diff
@@ -14,27 +15,32 @@ def Wp α := Post α → Pre
...
+  | ok x => p x
+  | fail _ => False
+  | div => True
+
+theorem spec_dspec (α) (x : Result α) (p: Post α) : spec x p → dspec x p := by
+  intros s
+  simp [spec, dspec] at *
+  cases x <;> simp at * <;> assumption
+
+
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/WP.lean]:
```suggestion

```

File: backends/lean/Aeneas/Std/WP.lean [hunk 26]
```diff
@@ -248,6 +310,9 @@ macro_rules
   | `($e ⦃ $x => $p ⦄) => do
     let post ← mkBinderFun 0 x p
     `(Aeneas.Std.WP.spec $e $post)
+  | `($e div⦃ $x => $p ⦄) => do
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/WP.lean]:
```suggestion
  | `($e ⦃ $x => $p ⦄div) => do
```

File: backends/lean/Aeneas/Std/WP.lean [hunk 27]
```diff
@@ -263,10 +328,23 @@ macro_rules
...
+    let rec run (depth : Nat) (xs : List Term) : MacroM Term := do
+      match xs with
+      | [] => `($p)
+      | [x] => mkBinderFun depth x p
+      | x :: xs =>
+        let xs ← run (depth + 1) xs
+        let inner ← mkBinderFun depth x xs
+        `(uncurry' $inner)
+    let post ← run 0 xs
+    `(Aeneas.Std.WP.dspec $e $post)
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/WP.lean:333]: We can factor out the `run` function

File: backends/lean/Aeneas/Tactic/Step/DspecInduction.lean [hunk 28]
```diff
@@ -0,0 +1,363 @@
...
+      (motive := fun simple_diverge_2' => ∀ x y, WP.dspec (simple_diverge_2' x y) (fun res => res = 10#i32))
+    · prove_admissible
+    · intros
+      simp only
+      split
+      . simp [*]
+      . step
+        step
+        simp [*]
+        --
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/DspecInduction.lean]:
```suggestion
```

File: backends/lean/Aeneas/Tactic/Step/DspecInduction.lean [hunk 29]
```diff
@@ -0,0 +1,363 @@
...
+  then ok 10#i32
+  else
+    let i1 ← 1#i32 + 1#i32
+    let i2 ← 1#i32 + 1#i32
+    simple_diverge_2' i1 i2
+partial_fixpoint
+
+theorem test_div_2_manual (x y : Std.I32) : Std.WP.dspec (simple_diverge_2' x y) (fun res => res = 10#i32)
+  := by
+    --
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/DspecInduction.lean]:
```suggestion
```

File: backends/lean/Aeneas/Tactic/Step/Init.lean [hunk 30]
```diff
@@ -220,34 +220,46 @@ end Methods
...
+  let .some info ← specStatementLookup specName
+    | throwError "{specName} is not a supported spec statement name"
+  if _h: args.size = info.arity
+  then pure (args[info.program_index]!, info) -- this is `f x1 ... xn`
   else throwError "Expected to be a `spec (f x1 ... xn) P`, got {ty₂}"
 
+deriving instance Ord for Lean.Name
 structure Rules where
-  rules : DiscrTree Name
+  rules : Std.TreeMap Name (DiscrTree Name)
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Init.lean:247]: We should add a docstring to explain the mapping: spec predicate name -> expression -> step theorem

File: backends/lean/Aeneas/Tactic/Step/Init.lean [hunk 31]
```diff
@@ -267,7 +279,7 @@ structure StepSpecAttr where
   ext  : Extension
   deriving Inhabited
 
-private def generateMvcgenSpec (stx : Syntax) (attrKind : AttributeKind)
+private def generateMvcgenSpec (thm : Name) (stx : Syntax) (attrKind : AttributeKind)
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Init.lean]: We should rename `thm` to `toMvcgenThm`

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 32]
```diff
@@ -226,22 +227,30 @@ structure Args where
 
    If comp = bind m k then return true and m
    Else return false and comp
+
+   NEW: also looks up which type of spec is being used in the statment,
+   and returns the corresponding SpecInfo
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
   Also looks up which type of spec is being used in the statement,
   and returns the corresponding SpecInfo
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 33]
```diff
@@ -226,22 +227,30 @@ structure Args where
...
-def getFirstBind (goalTy : Expr) : MetaM (Bool × Expr) := do
+def getFirstBind (goalTy : Expr) : MetaM (Bool × Expr × SpecInfo) := do
   forallTelescope goalTy fun nvars goalTy => do
 
   let (spec?, args) := goalTy.consumeMData.withApp (fun f args => (f, args))
-  let compTy ← if h: spec?.isConstOf ``Std.WP.spec ∧ args.size = 3
-               then pure (args[1])
+  let name ← match spec? with
+    | Expr.const name _ => pure name
+    | _ => throwError "{spec?} is not a spec statement name"
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
    | _ => throwError "{spec?} is not a spec statement"
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 34]
```diff
@@ -226,22 +227,30 @@ structure Args where
...
+  let .some info ← specStatementLookup name
+    | throwError "{name} is not a supported spec statement name"
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
    | throwError "{name} is not a supported spec statement"
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 35]
```diff
@@ -226,22 +227,30 @@ structure Args where
...
+  let compTy ← if h: args.size = info.arity
+               then pure (args[info.program_index]!)
                else throwError "Goal is not a `spec m P`"
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
               else throwError "Goal is not a fully applied `spec m P`"
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 36]
```diff
@@ -415,6 +424,7 @@ def getPostNamesFromGoal : TacticM (Array (Option Name)) := do
     let goalTy ← (← getMainGoal).getType
     let goalTy ← instantiateMVars goalTy
     goalTy.consumeMData.withApp fun spec? args => do
+    -- TODO: this could be generalized to work with other specs, like `dspec`
     if spec?.isConstOf ``Std.WP.spec ∧ args.size = 3 then
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: We need to generalize (we can: we just need to use the `program_index`)

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 37]
```diff
@@ -485,23 +495,43 @@ def tryMatch (isLet : Bool) (th : Expr) :
...
+      Lean.Meta.check liftingThmApplied -- need to instantiate the lifting theorem implicit arguments
+      let thTy ← inferType liftingThmApplied
+      let thTy ← normalizeLetBindings thTy
+      trace[Step] "After lifting have: {liftingThmApplied} : {liftingThmAppliedTy}"
+      pure (liftingThmApplied, thTy)
+
   -- `thTy` should be of the shape `spec program post`: we need to retrieve `program`
   let (thHead, thArgs) := thTy.consumeMData.withApp (fun f args => (f, args))
-  if !thHead.isConst || thHead.constName! != ``Std.WP.spec then
+  -- TODO: here is where it should be able to lift from spec to dspec
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 38]
```diff
@@ -626,7 +655,7 @@ def extractCallSiteTree (goalTy : Expr) : MetaM (Option NameTree) := do
     If a grind state is provided, it is updated with the newly introduced hypotheses so that
     subsequent steps can reuse it.
 -/
-def introOutputs (args : Args) (fExpr : Expr) (stepState : StepState) :
+def introOutputs (info : SpecInfo) (args : Args) (fExpr : Expr) (stepState : StepState) :
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean:660]: We'll need to generalize that, especially after we merge `main` into this branch (leave it to me).

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 39]
```diff
@@ -1020,7 +1042,8 @@ where
   for decl in decls.reverse do
     trace[Step] "Trying assumption: {decl.userName} : {decl.type}"
     try
-      let goal ← stepWith args isLet fExpr decl.toExpr
+      -- TODO: do we ever want to do a lifting with an assumption?
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
      -- TODO: generalize to allow lifting assumptions
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 40]
```diff
@@ -1092,7 +1120,8 @@ def stepAsmsOrLookupTheorem (args : Args) (withTh : Option Expr) :
       for decl in decls.reverse do
         trace[Step] "Trying recursive assumption: {decl.userName} : {decl.type}"
         try
-          let goals ← stepWith args goalIsLet fExpr decl.toExpr
+          -- TODO: do we ever want to do a lifting for a recursive assumption?
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
          -- We should never need to lift a recursive assumption
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 41]
```diff
@@ -1512,12 +1541,14 @@ namespace Test
...
   -- set_option pp.rawOnError true
 
+
   set_option says.verify true
 
   -- The following command displays the database of theorems:
   -- #eval showStoredStepThms
   open alloc.vec
 
+
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 42]
```diff
@@ -1512,12 +1541,14 @@ namespace Test
   -- set_option trace.Step true
   -- set_option pp.rawOnError true
 
+
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 43]
```diff
@@ -2097,6 +2128,114 @@ h1 : ∀ (i : ℕ) (x : i < s.length), s'[i] = 0#u32
...
+  -- this exists to workaround what is possibly a lean bug.
+  -- it can't find dspec the first time you try, but the subsequent ones work just fine.
+  -- it also seems to have something to do with the step attribute
+  /---/
+  #guard_msgs (substring := true) in
+  @[step]
+  theorem lean_bug_workaround : Std.WP.dspec (.ok 10) (fun _ => False) := by
+    step
+    --
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 44]
```diff
@@ -2097,6 +2128,114 @@ h1 : ∀ (i : ℕ) (x : i < s.length), s'[i] = 0#u32
...
+    then ok 10#i32
+    else
+      let i1 ← 1#i32 + 1#i32
+      simple_diverge i1
+  partial_fixpoint
+
+  -- this exists to workaround what is possibly a lean bug.
+  -- it can't find dspec the first time you try, but the subsequent ones work just fine.
+  -- it also seems to have something to do with the step attribute
+  /---/
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 45]
```diff
@@ -2097,6 +2128,114 @@ h1 : ∀ (i : ℕ) (x : i < s.length), s'[i] = 0#u32
...
+    if x = 0#i32
+    then ok 10#i32
+    else
+      let i1 ← 1#i32 + 1#i32
+      simple_diverge i1
+  partial_fixpoint
+
+  -- this exists to workaround what is possibly a lean bug.
+  -- it can't find dspec the first time you try, but the subsequent ones work just fine.
+  -- it also seems to have something to do with the step attribute
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: This is suspicious: we need to debug it.

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 46]
```diff
@@ -2097,6 +2128,114 @@ h1 : ∀ (i : ℕ) (x : i < s.length), s'[i] = 0#u32
...
+  /---/
+  #guard_msgs (substring := true) in
+  @[step]
+  theorem lean_bug_workaround : Std.WP.dspec (.ok 10) (fun _ => False) := by
+    step
+    --
+
+  theorem test_div (x : Std.I32) : Std.WP.dspec (simple_diverge x) (fun res => res = 10#i32)
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean:2164]: There is something suspicious here: if we keep incrementing `x` then we should not diverge but eventually panic because of an overflow. I don't understand why this proof is possible at all.

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 47]
```diff
@@ -2097,6 +2128,114 @@ h1 : ∀ (i : ℕ) (x : i < s.length), s'[i] = 0#u32
...
+    := by
+      revert x
+      apply simple_diverge.fixpoint_induct
+        (motive := fun simple_diverge => ∀ x, WP.dspec (simple_diverge x) (fun res => res = 10#i32))
+      · apply Lean.Order.admissible_pi
+        intros y
+        apply Lean.Order.admissible_apply (fun _ fx => WP.dspec fx _)
+        apply Lean.Order.admissible_flatOrder
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean:2172]: Shouldn't the admissibility proofs be automated by the `dspec_induction` tactic?

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 48]
```diff
@@ -2097,6 +2128,114 @@ h1 : ∀ (i : ℕ) (x : i < s.length), s'[i] = 0#u32
...
+
+  -- test using dspec theorem to step dspec
+  example : WP.dspec
+    (do let x ← simple_converge 5#i32
+        let _y ← simple_converge 6#i32
+        ok x) (fun x => x = 10#i32) := by
+      step
+      step
+      simp [*]
+      --
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 49]
```diff
@@ -2097,6 +2128,114 @@ h1 : ∀ (i : ℕ) (x : i < s.length), s'[i] = 0#u32
...
+
+  example : WP.spec
+    (do let x ← 1#i32 + 2#i32
+        let y ← x + x
+        ok y) (fun z => z.val == 6) := by
+    step
+    step
+    simp [*]
+    --
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion
```

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 50]
```diff
@@ -2097,6 +2128,114 @@ h1 : ∀ (i : ℕ) (x : i < s.length), s'[i] = 0#u32
...
+  /-- error: Step failed: could not find a local assumption or a theorem to apply -/
+  #guard_msgs in
+  example : WP.spec
+    (do let x ← simple_diverge 5#i32
+        let y ← simple_diverge 6#i32
+        ok x) (fun x => x = 10#i32) := by
+    step -- this should fail!
+    step
+    simp [*]
+    --
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]:
```suggestion

```

**Review by sonmarcho — COMMENTED** [review]
Thanks! The review is mostly about details and nit.

File: backends/lean/Aeneas/Tactic/Step/Step.lean (hunk 47 above)
Comment (jeprinz) [reply backends/lean/Aeneas/Tactic/Step/Step.lean:2172]: they can be, but we can't import it in Step since it would be a cyclic import. there are other tests in DspecInduction.lean that do this but with the tactic.

File: backends/lean/Aeneas/Tactic/Step/Step.lean (hunk 46 above)
Comment (jeprinz) [reply backends/lean/Aeneas/Tactic/Step/Step.lean:2164]: simple_diverge actually just always recurses with input 2. it doesn't really use its input
